US06153608
6-Fluoro-hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride
Using 0.65 g of 6-fluoro-hexahydro-1H-1,4-diazepine synthesized in accordance with J. Med. Chem., 1990, 33, 142 and 0.72 g of 5-chlorosulfonyl-4-methylisoquinoline, the procedure of Example 1 was otherwise repeated to provide 0.35 g of the objective compound (white crystals).

reactant | 6-fluoro-hexahydro-1H-1,4-diazepine | 0.65 g | FC1CNCCNC1 | C5H11FN2
reactant | 5-chlorosulfonyl-4-methylisoquinoline | 0.72 g | ClS(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C10H8ClNO2S
product | 6-Fluoro-hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride | 0.35 g | Cl.FC1CNCCN(C1)S(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | InChI=1S/C15H18FN3O2S.ClH/c1-11-7-18-8-12-3-2-4-14(15(11)12)22(20,21)19-6-5-17-9-13(16)10-19;/h2-4,7-8,13,17H,5-6,9-10H2,1H3;1H
